US07812028B2
Preparation of 5-(4-Chloro-phenyl)-6-[2-(5-fluoro-pyridin-2-yl)-ethyl]-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 140, using 2-ethynyl-5-fluoro-pyridine (CAN 884494-34-2), 6-chloro-5-(4-chloro-phenyl)-nicotinic acid methyl ester, and (1R,2R)-2-amino-cyclohexanol (commercially available) as starting materials, LC at 215 nm; Rt 4.12: 99%, m/z (ES+): 454.5 (M+H).

reactant | 2-ethynyl-5-fluoro-pyridine | C(#C)C1=NC=C(C=C1)F | C7H4FN
reactant | 6-chloro-5-(4-chloro-phenyl)-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)C1=CC=C(C=C1)Cl)Cl)=O | C13H9Cl2NO2
reactant | (1R,2R)-2-amino-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 5-(4-Chloro-phenyl)-6-[2-(5-fluoro-pyridin-2-yl)-ethyl]-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)CCC1=NC=C(C=C1)F | C25H25ClFN3O2
